US06531495B1
65 ml of 1 M sodium hydroxide solution were added to a solution of 12.0 g (53 mmol) of 2′-aminomethylbiphenyl-2-carboxylic acid (precursor 3) in 130 ml of 1,4-dioxane and 65 ml of water and, after complete dissolution, 12.6 g (58 mmol) of di-tert-butyl dicarbonate were added. After stirring at RT for 2 h, the mixture was concentrated in vacuo, diluted with water and extracted 2 times with methylene chloride. The aqueous phase was acidified with 1 M potassium hydrogensulfate solution and extracted with ethyl acetate. After extensive concentration, addition of n-heptane and allowing to stand overnight, the product precipitated and 7.6 g of 2′-(tert-butoxycarbonylaminomethyl)biphenyl-2-carboxylic acid were obtained; m.p. 136° C.

reactant | sodium hydroxide | 1 M, 65 ml | [OH-].[Na+]
reactant | 2′-aminomethylbiphenyl-2-carboxylic acid | 53 mmol, 12.0 g | NCC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O | C14H13NO2
reactant | di-tert-butyl dicarbonate | 58 mmol, 12.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 130 ml | O1CCOCC1 | C4H8O2
solvent | water | 65 ml | O | H2O
product | 2′-(tert-butoxycarbonylaminomethyl)biphenyl-2-carboxylic acid | 7.6 g | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O | C19H21NO4
